US04673534
Preparation of L-carnitine octanesulphonate
The carnitine inner salt solution is mixed with the octanesulphonic acid solution at ambient temperature under agitation for 20 minutes, and the homogeneous solution obtained is lyophilised.

reactant | carnitine | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
reactant | octanesulphonic acid | C(CCCCCCC)S(=O)(=O)O | C8H18O3S
product | L-carnitine octanesulphonate | C(CCCCCCC)S(=O)(=O)O[C@@H](C[N+](C)(C)C)CC([O-])=O | C15H31NO5S
